US04030906
A solution of 15 g (0.1 mol) α,α-dimethyl-2-aminobenzyl alcohol and 5.7 g (0.1 mol) acetone in 120 ml of benzene was heated under reflux in a Dean-Stark trap for 3 hours. About 1.5 ml of water was separated from the reaction mixture. The benzene solution was then evaporated to give an oil which solidified on standing. Recrystallization from ethanol-water gave 5.2 g 2,2,4,4-tetramethyl-1,2-dihydro-4H-3,1-benzoxazine, as a white solid.

reactant | α,α-dimethyl-2-aminobenzyl alcohol | 0.1 mol, 15 g | CC(C1=C(C=CC=C1)N)(C)O | C9H13NO
reactant | acetone | 0.1 mol, 5.7 g | CC(=O)C | C3H6O
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | 2,2,4,4-tetramethyl-1,2-dihydro-4H-3,1-benzoxazine | 5.2 g | CC1(NC2=C(C(O1)(C)C)C=CC=C2)C | C12H17NO
